US04912107
5.5 g (15.8 mmole) 1,3,3a,4,7,7a-hexahydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole and 9.1 g (40.1 mmole) 2,3-dichloro-5,6-dicyano-p-benzoquinone (DDQ) are heated under reflux for 16 hours in 100 ml t-butylbenzene. The solvent is removed in a vacuum and the residue chromatographed on silica gel with toluene/ethyl acetate 3:1. The fraction with the Rf of 0.4 is isolated, stirred with a little hot ethanol, and the crystals formed after cooling are filtered off. After recrystallization from ethyl acetate, one obtains 1,3-dihydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole in the form of colorless crystals of the mp 224°-226° C.

reactant | 1,3,3a,4,7,7a-hexahydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole | 15.8 mmole, 5.5 g | [N+](=O)([O-])C1=C(C=CC=C1)C1C2C(NC(C2C(C=C1)C1=CC=CC=C1)=O)=O | C20H16N2O4
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 40.1 mmole, 9.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | ethanol | C(C)O | C2H6O
solvent | t-butylbenzene | 100 ml | C(C)(C)(C)C1=CC=CC=C1 | C10H14
product | 1,3-dihydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole | [N+](=O)([O-])C1=C(C=CC=C1)C1=C2C(NC(C2=C(C=C1)C1=CC=CC=C1)=O)=O | C20H12N2O4
